US05958910
5-tert-Butyl-thiophene-2-sulfonic acid [4-(3-nitro-phenyl)-thiazol-2-yl]-amide
A mixture of 0.5 g of 4-(3-nitro-phenyl)-thiazol-2-ylamine hydrobromide with 0.43 g of 5-tert-butyl-thiophene-2-sulfonyl chloride was stirred overnight with 2 ml of pyridine. The resulting, red colored suspension was poured into 30 ml of 1N hydrochloric acid and the mixture was extracted three times with 30 ml of ethyl acetate each time. The organic phases were combined, dried with magnesium sulphate and the solvent was removed on a rotary evaporator. The residue was chromatographed on 50 g of Kieselgel 60 with ethyl acetate/hexane (1:2) as the eluent. The product-containing fractions were concentrated and the residue was dissolved in a mixture of 20 ml of ethanol and 20 ml of 2N sodium hydroxide solution. After the addition of 0.4 g of active charcoal the mixture was stirred at room temperature for 30 minutes and subsequently the active charcoal was filtered off. 0.20 g of 5-tert-butyl-thiophene-2-sulfonic acid [4-(3-nitro-phenyl)-thiazol-2-yl]-amide separated as yellowish crystals after neutralization with concentrated hydrochloric acid and repeated boiling.

reactant | 4-(3-nitro-phenyl)-thiazol-2-ylamine hydrobromide | 0.5 g | Br.[N+](=O)([O-])C=1C=C(C=CC1)C=1N=C(SC1)N
reactant | 5-tert-butyl-thiophene-2-sulfonyl chloride | 0.43 g | C(C)(C)(C)C1=CC=C(S1)S(=O)(=O)Cl | C8H11ClO2S2
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 5-tert-Butyl-thiophene-2-sulfonic acid [4-(3-nitro-phenyl)-thiazol-2-yl]-amide | [N+](=O)([O-])C=1C=C(C=CC1)C=1N=C(SC1)NS(=O)(=O)C=1SC(=CC1)C(C)(C)C | C17H17N3O4S3
